US07872028B2
Step 1. (2R,3S)-3-(t-Butoxycarbonylamino)-1-azido-4-cyclohexylbutan-2-ol
tert-Butyl (S)-2-cyclohexyl-1-((S)-oxiran-2-yl)ethylcarbamate (492 mg, 1.82 mmol), sodium azide (600 mg, 9.2 mmol), and ammonium chloride (540 mg, 10 mmol) were dissolved in MeOH (26 mL). The reaction was heated to 70° C. for 15 h. The solution was cooled to rt and quenched with water (80 mL). The solution was extracted with EtOAc (3×). The combined organic layers were washed with brine, dried over MgSO4, and the solvent was removed. The crude (2R,3S)-3-amino-1-azido-4-cyclohexylbutan-2-ol (524 mg) was used without further purification.

reactant | tert-Butyl (S)-2-cyclohexyl-1-((S)-oxiran-2-yl)ethylcarbamate | 1.82 mmol, 492 mg | C1(CCCCC1)C[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C15H27NO3
reactant | sodium azide | 9.2 mmol, 600 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 10 mmol, 540 mg | [Cl-].[NH4+]
solvent | MeOH | 26 mL | CO | CH4O
product | (2R,3S)-3-(t-Butoxycarbonylamino)-1-azido-4-cyclohexylbutan-2-ol | C(C)(C)(C)OC(=O)N[C@H]([C@@H](CN=[N+]=[N-])O)CC1CCCCC1 | C15H28N4O3
